US08633173B2
[8-(2-Methoxy-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-(4-morpholin-4-yl-phenyl)-amine
To an oven dried tube was added palladium acetate (10.0 mg, 0.0445 mmol) and 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene (75.0 mg, 0.130 mmol), 8-(2-methoxy-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (100.0 mg, 0.4162 mmol), 4-(4-bromo-phenyl)-morpholine (120.0 mg, 0.4956 mmol), cesium carbonate (270 mg, 0.83 mmol) and 1,4-dioxane (5 mL). The tube was evacuated and backflushed with nitrogen three times. The tube was sealed and heated at 80° C. for 72 hours. The mixture was cooled to room temperature, diluted with dichloromethane (10 mL), filtered through a plug of diatomaceous earth, rinsed with dichloromethane and evaporated. The material was purified via chromatography utilizing an ISCO automated purification apparatus (amine modified silica gel column 5%→100% ethyl acetate in hexanes). The title compound, [8-(2-Methoxy-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-(4-morpholin-4-yl-phenyl)-amine, was isolated as a pale yellow foam (0.034 g, 20%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.39 (dd, J=6.7, 1.1 Hz, 1H), 7.61 (dd, J=7.5, 1.7 Hz, 1H), 7.51 (dd, J=7.3, 0.9 Hz, 1H), 7.50-7.45 (m, 2H), 7.43-7.37 (m, 1H), 7.12-7.07 (m, 1H), 7.05 (d, J=8.2, 1H), 6.96-6.87 (m, 3H), 6.67 (s, 1H), 3.89-3.85 (m, 4H), 3.81 (s, 3H), 3.12-3.08 (m, 4H). MS=402 (MH)+.

reactant | 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene | 0.130 mmol, 75.0 mg | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | 8-(2-methoxy-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 0.4162 mmol, 100.0 mg | COC1=C(C=CC=C1)C=1C=2N(C=CC1)N=C(N2)N | C13H12N4O
reactant | 4-(4-bromo-phenyl)-morpholine | 0.4956 mmol, 120.0 mg | BrC1=CC=C(C=C1)N1CCOCC1 | C10H12BrNO
reactant | cesium carbonate | 0.83 mmol, 270 mg | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | palladium acetate | 0.0445 mmol, 10.0 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | [8-(2-Methoxy-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-(4-morpholin-4-yl-phenyl)-amine | COC1=C(C=CC=C1)C=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)N2CCOCC2 | C23H23N5O2
